### PR TITLE
feat: refined `variable` behavior in proofs

### LINKED ISSUE #2452: RFC: change variable inclusion mechanism
The current Lean 4 mechanism for including variables is the following: When starting the proof of a theorem (or the body of a definition, it doesn't make a difference), all variables in the context are included and may be used in the proof. When the proof is over, only those variables that have indeed been used are kept for the statement of the theorem (i.e., all the other ones are discarded). This looks nice, but we have faced several issues in mathib 4 because of this:

* if in the context there is `variable {n : ℕ} (hn : 1 < n) (h'n : 2 < n)` and a theorem using `hn` but not `h'n`, then `induction n` will also pull `h'n` in the assumptions of the theorem. So will `subst`. The solution is to `clear h'n` before the induction even though `h'n` should not be in sight anywhere.
* When cleaning up a proof, say by using lemma B instead of lemma A in the proof, new typeclass assumptions may be pulled in by lemma B and weaken the initial statement. All this will go unnoticed (no linter can help here).
* In files which are heavy on variables or typeclass assumptions (say files on vector bundles), the goal view is cluttered by dozens of lines of assumptions which are not relevant for the lemma being currently proved, making it really hard to use.
* Refactors in a file may change the *statements* of theorems in another file without breaking anything: if the proof of a theorem involves a typeclass `classA α`, and in the context there are assumptions `classB α` and `classC α`, both of them implying `classA α`, then the above mechanism will only keep `classB α` or `classC α`, and the one which will be kept depends on the details of the path chosen by typeclass inference. Therefore, adjusting instance priorities somewhere else may change which one will appear in the assumptions of the theorem. 

No linter can guard against this lack of robustness. Therefore, most mathlib folks have been convinced that a less clever but more predictable behavior would be an improvement over the current situation. After several discussions on Zulip, the following scheme has been suggested:
* Include for a lemma or a def all the variables that are mentioned explicitly in the statement of the lemma (not its body, even if it is in term mode, contrary to Lean 3)
* Also include all the typeclass assumptions about these variables which are in the context (named or unnamed, contrary to Lean 3)
* No automatic removal of unused typeclass assumptions at the end of the proof: Better let a linter signal it, and let the user fix it by hand (to avoid non-robustness issues pointed out in the discussion above).
* Add a mechanism to force inclusion of variables that are in the context but are not explicit in the statement. Two variations have been suggested here. Both of them are local to a theorem or a definition, as the global `include / omit` mechanism in Lean 3 is felt by many people as a major source of non-readability. Assume that `hf : ...` and `hg : ...` are variables in the context.
  - (a) Allow `include hf hg in` before the statement of a theorem, to force inclusion of `hf` and `hg` (with the binders they have in the variables list, and at their position in the variables list). This could also be used to adust binder types, with `include (hf) {hg} in` for instance. Optional: also allow `omit hf in` to remove a named typeclass assumptions `hf` that would otherwise be included.
  - (b) Allow `theorem foo ... (hf) ... {hg} ...` to force inclusion of `hf` and `hg`, adjusting their binders and their position in the variables list. The interplay of this syntax with autoparams is not completely clear, and what one should do if other variables depend on `hf` and `hg` and appear before them in the list should also be clarified.

A poll was organized on Zulip (https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/automatic.20inclusion.20of.20variables.20in.20mathlib.204/near/386620103), proposing either to keep the Lean 4 behavior, or go back to the Lean 3 behavior, or use the above scheme with one of the two suggestions (a) or (b). No-one opted for the current Lean 4 behavior nor the Lean 3 behavior. 12 people voted only for (a), 4 only for (b), and 4 for (a) or (b).

### PR DESCRIPTION
**Pull request by Kha**
Resolves #2452. For *theorems*, section variables are now conditionally included when elaborating the theorem body and sending the result to the kernel based on their use in the header; elaboration of the header is unchanged. *Definitions* as well are unchanged for now because the cost/benefit ratio is much less clear for them.

Specifically, section variables are included if they
* are directly referenced by the theorem header,
* are included via the new `include` command in the current section,
* are directly referenced by any variable included by these rules, OR
* are instance-implicit variables that reference only variables included by these rules.

For porting, a new option `deprecated.oldSectionVars` is included to locally switch back to the old behavior.

**breaking change**

### CODE REVIEW

**Comment by fpvandoorn** [comment]
> are instance-implicit variables that reference any variable included by these rules.

Should this be "are instance-implicit variables and all referenced variables are included by these rules."
For example, if I have 
```lean
variable {R : Type*} [CommRing R] {M : Type*} [AddCommGroup M] [Module R M]
```
If only one of `R`/`M` is referenced, `Module R M` should not be included.

(I would also love it if `include` supports binder updates)

**Comment by Kha** [comment]
> > are instance-implicit variables that reference any variable included by these rules.
> 
> Should this be "are instance-implicit variables and all referenced variables are included by these rules."? For example, if I have

Makes sense to me, updated.

> (I would also love it if include supports binder updates)

Would `include {v}` be equivalent to `variable {v} include v`? I'm not sure yet what to think about such overloading of semantics

**Comment by fpvandoorn** [comment]
Yes, those would be equivalent.

In Mathlib we are striving towards using `variable {v}` and `include v` *only* using `in` (i.e. `variable {v}` or `include v` is banned, you should solely use `variable {v} in` and `include v in`).
If we follow that rule, then the ability to write `include {v}` means that we don't need `variable {v}` anymore in Mathlib, since all its uses can be replaced by `include`.

**Comment by semorrison** [comment]
> Yes, those would be equivalent.
> 
> In Mathlib we are striving towards using `variable {v}` and `include v` _only_ using `in` (i.e. `variable {v}` or `include v` is banned, you should solely use `variable {v} in` and `include v in`). If we follow that rule, then the ability to write `include {v}` means that we don't need `variable {v}` anymore in Mathlib, since all its uses can be replaced by `include`.

@fpvandoorn, I've finally started looking at Mathlib under this PR (the `lean-pr-testing-4814` branch). (It is going to be epic! :-)
 
I've already encountered a few places where is seems rather inconvenient for only using `include ... in`, rather than bounded by a section. Please see https://github.com/leanprover-community/mathlib4/commit/c3ec6bedfaddc035e24f86a44099089854a7d13c for the first two examples I encountered.

**Comment by semorrison** [comment]
Re: looking at Mathlib on this PR. So far there are two classes of problems: typeclasses hypothesis being included which should not be (for which the new linter is *really* helpful), and variables with need an `include`.

Fixing the first class of problems requires either adding sections to bound `variable [...]` scopes, using `variable ... in`, or reordering results.

I propose that for anyone working on the Mathlib branch for this PR, we try to backport all the changes of the first form.

A reasonable workflow seems to be:
* As you make changes on `lean-pr-testing-4814`, any changes that use `include` (i.e. which will not work on master), you immediately stage.
* But any changes for *excluding* typeclasses hypotheses you leave unstage.
* At suitable intervals, make a commit of the stages changes on `lean-pr-testing-4814`
* Then stash the remaining changes, make a new branch off master, make a PR from it, and then merge that branch back to `lean-pr-testing-4814`.

(We have have following a similar workflow for the `byAsSorry` branch, c.f. [zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Running.20Mathlib.20under.20.60set_option.20debug.2EbyAsSorry.60) discusssion.)

This is going to be a *massive* adaptation exercise to get this working, and I will need help to get it done.

**Comment by semorrison** [comment]
> > > are instance-implicit variables that reference any variable included by these rules.
> > 
> > 
> > Should this be "are instance-implicit variables and all referenced variables are included by these rules."? For example, if I have
> 
> Makes sense to me, updated.

@Kha, I think this change may have not worked as intended. In Mathlib on lean-pr-testing-4814 I am seeing:
```
section Trans

variable [IsTrans N r] (m n : M) {a b c d : N}

--  Lemmas with 3 elements.
theorem act_rel_of_rel_of_act_rel (ab : r a b) (rl : r (μ m b) c) : r (μ m a) c :=
  _root_.trans (act_rel_act_of_rel m ab) rl

theorem rel_act_of_rel_of_rel_act (ab : r a b) (rr : r c (μ m a)) : r c (μ m b) :=
  _root_.trans rr (act_rel_act_of_rel _ ab)

end Trans
```
failing with `failed to synthesize IsTrans N r`, despite both the arguments of `IsTrans` being mentioned in the theorem statement.

(I have no idea why in Mathlib the first argument of `IsTrans` is explicit rather than implicit -- I'll investigate that too...)

Let me know if you'd like a minimization of this.

**Comment by semorrison** [comment]
@Kha, another bug, where typeclass arguments that are included transitively can be include with multiplicity, apparently!

Again on `lean-pr-testing-4814`, in `Mathlib.Order.Monotone`, we see:

```
variable (α) [Preorder α] [Nonempty α] [NoMinOrder α] [NoMaxOrder α]

/-- If `α` is a nonempty preorder with no minimal or maximal elements, then there exists a strictly
monotone function `f : ℤ → α`. -/
theorem exists_strictMono : ∃ f : ℤ → α, StrictMono f := by
  inhabit α
  rcases Nat.exists_strictMono' (default : α) with ⟨f, hf, hf₀⟩
  rcases Nat.exists_strictAnti' (default : α) with ⟨g, hg, hg₀⟩
  refine ⟨fun n ↦ Int.casesOn n f fun n ↦ g (n + 1), strictMono_int_of_lt_succ ?_⟩
  rintro (n | _ | n)
  · exact hf n.lt_succ_self
  · show g 1 < f 0
    rw [hf₀, ← hg₀]
    exact hg Nat.zero_lt_one
  · exact hg (Nat.lt_succ_self _)
```

resulting in the signature
```
Int.exists_strictMono.{u} (α : Type u) [Preorder α] [Preorder α] [Nonempty α] [NoMinOrder α] [NoMaxOrder α] :
  ∃ f, StrictMono f
```
where apparently `[Preorder α]` has been added twice, once because `[NoMinOrder α]` needs it and again because  `[NoMaxOrder α]` needs it.

Again, please let me know if you'd like an minimisation.

**Comment by semorrison** [comment]
And another problem, @Kha! We have places in Mathlib where people have add implicit arguments that could otherwise be automatically included instance arguments, on the principle that it is faster/better to find these by unification from later arguments that to redo typeclass search.

Here's an example from Mathlib in `Mathlib.Algebra.GroupWithZero`:
```
@[simp]
lemma coe_copy {_ : MulZeroOneClass α} {_ : MulZeroOneClass β} (f : α →*₀ β) (f' : α → β) (h) :
    (f.copy f' h) = f' := rfl

lemma copy_eq {_ : MulZeroOneClass α} {_ : MulZeroOneClass β} (f : α →*₀ β) (f' : α → β) (h) :
    f.copy f' h = f := DFunLike.ext' h
```
It's perfectly okay on `master` to just omit these, and instead we get corresponding instance arguments included.

However on lean-pr-testing-4814, we get warning, because the signature becomes:
```
MonoidWithZeroHom.coe_copy.{u_2, u_3} {α : Type u_2} {β : Type u_3} [MulZeroOneClass α] [MulZeroOneClass β] :
  ∀ {x : MulZeroOneClass α} {x_1 : MulZeroOneClass β} (f : α →*₀ β) (f' : α → β) (h : f' = ⇑f), ⇑(f.copy f' h) = f'
```

I'm uncertain the best way to proceed here. Probably we ought to make the variable inclusion mechanism robust to this, and decline to include instance arguments if there are already there as implicit arguments. In this particular case it's fine to just remove them, but I don't think that is always going to be true.

Again, let me know if you want a minimization.

**Comment by semorrison** [comment]
And more. :-)

We may need to pull in typeclass arguments because they mention the *type* of an included argument, not just the argument itself.

For example in Mathlib we have in `Mathlib.Algebra.Ring.Divisibility.Basic`:
```
variable [Semigroup α] [Semigroup β] {F : Type*} [EquivLike F α β] [MulEquivClass F α β] (f : F)

theorem map_dvd_iff {a b} : f a ∣ f b ↔ a ∣ b :=
  let f := MulEquivClass.toMulEquiv f
  ⟨fun h ↦ by rw [← f.left_inv a, ← f.left_inv b]; exact map_dvd f.symm h, map_dvd f⟩

theorem MulEquiv.decompositionMonoid [DecompositionMonoid β] : DecompositionMonoid α where
  primal a b c h := by
    rw [← map_dvd_iff f, map_mul] at h
    obtain ⟨a₁, a₂, h⟩ := DecompositionMonoid.primal _ h
    refine ⟨symm f a₁, symm f a₂, ?_⟩
    simp_rw [← map_dvd_iff f, ← map_mul, eq_symm_apply]
    iterate 2 erw [(f : α ≃* β).apply_symm_apply]
    exact h
```

Here `include f` on `MulEquiv.decompositionMonoid` (or just writing it as an explicit argument) doesn't suffice to pull in `[MulEquivClass F α β]`.

Making matters worse, if we just change the theorem statement to
```
theorem MulEquiv.decompositionMonoid 
    [MulEquivClass F α β] (f : F) [DecompositionMonoid β] : DecompositionMonoid α where
```
then we get the incorrect warning:
```
included section variable '[MulEquivClass F α β]' is not used in 'MulEquiv.decompositionMonoid', consider excluding it
```
I can work around this by just not making it a section variable at all and instead including it directly in both theorems here.

(As above with minimization. :-)

**Comment by fpvandoorn** [comment]
> > Yes, those would be equivalent.
> > In Mathlib we are striving towards using `variable {v}` and `include v` _only_ using `in` (i.e. `variable {v}` or `include v` is banned, you should solely use `variable {v} in` and `include v in`). If we follow that rule, then the ability to write `include {v}` means that we don't need `variable {v}` anymore in Mathlib, since all its uses can be replaced by `include`.
> 
> @fpvandoorn, I've finally started looking at Mathlib under this PR (the `lean-pr-testing-4814` branch). (It is going to be epic! :-)
> 
> I've already encountered a few places where is seems rather inconvenient for only using `include ... in`, rather than bounded by a section. Please see [leanprover-community/mathlib4@c3ec6be](https://github.com/leanprover-community/mathlib4/commit/c3ec6bedfaddc035e24f86a44099089854a7d13c) for the first two examples I encountered.

We should probably not strive to do this immediately. Another thing we can consider is to have (in the long-term) no explicit variables, instead repeating those in each theorem statement. That should also reduce the number of `include`s.
But given your example we maybe want to allow having a global `include` directly after the corresponding `variable` statement. Then whenever that variable is visible it will have the include statement.

**Comment by Kha** [comment]
> @Kha, another bug, where typeclass arguments that are included transitively can be included with multiplicity, apparently!
> 
> Again on `lean-pr-testing-4814`, in `Mathlib.Order.Monotone`, we see:
> 
> ```
> variable (α) [Preorder α] [Nonempty α] [NoMinOrder α] [NoMaxOrder α]
> 
> /-- If `α` is a nonempty preorder with no minimal or maximal elements, then there exists a strictly
> monotone function `f : ℤ → α`. -/
> theorem exists_strictMono : ∃ f : ℤ → α, StrictMono f := by
>   inhabit α
>   rcases Nat.exists_strictMono' (default : α) with ⟨f, hf, hf₀⟩
>   rcases Nat.exists_strictAnti' (default : α) with ⟨g, hg, hg₀⟩
>   refine ⟨fun n ↦ Int.casesOn n f fun n ↦ g (n + 1), strictMono_int_of_lt_succ ?_⟩
>   rintro (n | _ | n)
>   · exact hf n.lt_succ_self
>   · show g 1 < f 0
>     rw [hf₀, ← hg₀]
>     exact hg Nat.zero_lt_one
>   · exact hg (Nat.lt_succ_self _)
> ```
> 
> resulting in the signature
> 
> ```
> Int.exists_strictMono.{u} (α : Type u) [Preorder α] [Preorder α] [Nonempty α] [NoMinOrder α] [NoMaxOrder α] :
>   ∃ f, StrictMono f
> ```
> 
> where apparently `[Preorder α]` has been added twice, once because `[NoMinOrder α]` needs it and again because `[NoMaxOrder α]` needs it.
> 
> Again, please let me know if you'd like an minimisation.

This looks correct in that there is already a `[Preorder \a]` in context. But also #2789 comes in and prevents us from removing the duplicate assumption unless broken into two lines.
```
variable (α)
variable [Nonempty α] [NoMinOrder α] [NoMaxOrder α]
```

**Comment by Kha** [comment]
> Probably we ought to make the variable inclusion mechanism robust to this, and decline to include instance arguments if there are already there as implicit arguments.

I'm a bit wary of comparing parameter types by equality (which one?). I assume one alternative would be to name the instances and use binder updates instead?

**Comment by Kha** [comment]
> failing with `failed to synthesize IsTrans N r`, despite both the arguments of `IsTrans` being mentioned in the theorem statement.

Fixed



> Here `include f` on `MulEquiv.decompositionMonoid` (or just writing it as an explicit argument) doesn't suffice to pull in `[MulEquivClass F α β]`.

Fixed

**Comment by semorrison** [comment]
I am rebasing on `nightly-with-mathlib` (regenerating `update-stage0` commits), in order to keep the Mathlib adaptation branch viable.

**Comment by semorrison** [comment]
Sigh, the merge conflict with master occurs after `nightly-with-mathlib`. I will see if Mathlib's `nightly-testing` is compatible with `master`, and if so rebase this onto `master`.

File: src/Lean/Parser/Command.lean [hunk 1]
```diff
@@ -274,30 +274,35 @@ with `end <id>`. The `end` command is optional at the end of a file.
...
+useful in particular when writing many definitions that have parameters in common (see below for an
+example).
 
 Variable declarations have the same flexibility as regular function paramaters. In particular they
 can be [explicit, implicit][binder docs], or [instance implicit][tpil classes] (in which case they
 can be anonymous). This can be changed, for instance one can turn explicit variable `x` into an
 implicit one with `variable {x}`. Note that currently, you should avoid changing how variables are
 bound and declare new variables at the same time; see [issue 2789] for more on this topic.
 
+In *theorem bodies* (i.e. proofs), variables are not included based on usage in order to ensure that
```
Comment (Kha) [inline src/Lean/Parser/Command.lean:290]: @david-christiansen I merged this version for now to avoid a stale update-stage0, but please feel free to refine!
